US06548506B2
1-Ethyl-7-fluoro-8-[4-(4-fluorobenzyl)piperazin-1-yl]-4-oxo-1,4-dihydrobenzo-[b][1,8]naphthyridine-3-carboxylic acid was prepared under the conditions of Example 2, LAW OFFICES but from 1.6 g of 8-chloro-1-ethyl-7-fluoro-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid and 3.9 g of 4-(4-fluorobenzyl)piperazine. After recrystallizing twice from 20 cm3 of dimethylformamide on each occasion, 1.4 g of 1-ethyl-7-fluoro-8-[4-(4-fluorobenzyl)piperazin-1-yl]-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid were obtained in the form of a yellow solid melting at about 286-8° C.

reactant | 8-chloro-1-ethyl-7-fluoro-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 1.6 g | ClC=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)CC)C1)F | C15H10ClFN2O3
reactant | 4-(4-fluorobenzyl)piperazine | 3.9 g | FC1=CC=C(CN2CCNCC2)C=C1 | C11H15FN2
product | 1-ethyl-7-fluoro-8-[4-(4-fluorobenzyl)piperazin-1-yl]-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 1.4 g | C(C)N1C=C(C(C=2C=C3C(=NC12)C=C(C(=C3)F)N3CCN(CC3)CC3=CC=C(C=C3)F)=O)C(=O)O | C26H24F2N4O3
